US04080323
4,6-Dihydro-1-methyl-6-phenyl-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one
Raney nickel, 11 g, was added to a solution of 3.5 g (0.0118 m) of 5-phenyl-1,2,3,4-tetrahydro-2-nitromethylene-5H-1,5-benzodiazepin-4-one in 50 ml of tetrahydrofuran, and 150 ml of ethanol. The mixture was then hydrogenated at atmospheric pressure for a period of 20 hours. The catalyst was filtered off and washed with tetrahydrofuran and methylene chloride. The filtrate was evaporated and the remaining oil (3.1 g) was dissolved in 250 ml of xylene and 6.2 ml of triethylorthoacetate. After heating to reflux with stirring for 30 min, the reaction mixture was evaporated. The residue was dissolved in 200 ml of toluene and 19 g of activated manganese dioxide was added to the solution. The mixture was stirred and refluxed for 30 min. The manganese dioxide was filtered off and washed well with tetrahydrofuran and methylene chloride. The filtrate was evaporated, and the residue was crystallized from ethyl acetate to yield crystals with mp 217°-220°. For analysis, the material was recrystallized from methylene chloride/ethyl acetate to give colorless crystals with mp 221°-223°.

reactant | 5-phenyl-1,2,3,4-tetrahydro-2-nitromethylene-5H-1,5-benzodiazepin-4-one | 3.5 g | C1(=CC=CC=C1)N1C(CC(NC2=C1C=CC=C2)=C[N+](=O)[O-])=O | C16H13N3O3
reactant | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4,6-Dihydro-1-methyl-6-phenyl-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one | CC1=NC=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=CC=C1 | C18H15N3O
